************************************************************************
* auCdl Netlist:
* 
* Library Name:  bitslice_rv32Lib
* Top Cell Name: pcadder
* View Name:     schematic
* Netlisted on:  Mar 22 16:55:13 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vss!
*+    vdd!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    trans
* View Name:    schematic
************************************************************************

.SUBCKT trans A G Gb Z
*.PININFO A:I G:I Gb:I Z:B
MM0 Z Gb A vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z G A vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    mux2
* View Name:    schematic
************************************************************************

.SUBCKT mux2 A B S0 Z
*.PININFO A:I B:I S0:I Z:O
XI2 B S0 net1 Z / trans
XI1 A net1 S0 Z / trans
XI3 S0 net1 / inv
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    muxinv2
* View Name:    schematic
************************************************************************

.SUBCKT muxinv2 A B S0 Z
*.PININFO A:I B:I S0:I Z:O
XI0 A B S0 net1 / mux2
XI1 net1 Z / inv
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    fa
* View Name:    schematic
************************************************************************

.SUBCKT fa A B Cin Cout Sum
*.PININFO A:I B:I Cin:I Cout:O Sum:O
XI1 Cin Cinb / inv
XI13 Cout net10 / inv
XI11 Cin Cinb A mux1 / muxinv2
XI14 net10 B mux1 Sum / mux2
XI12 B A mux1 Cout / mux2
.ENDS

************************************************************************
* Library Name: bitslice_rv32Lib
* Cell Name:    pcadder
* View Name:    schematic
************************************************************************

.SUBCKT pcadder pc pc_adder_4 pc_cin pc_cout pcp4
*.PININFO pc:I pc_adder_4:I pc_cin:I pc_cout:O pcp4:O
XI4 pc pc_adder_4 pc_cin pc_cout pcp4 / fa
.ENDS

